US05342845
(2) Synthesis of (S)-(-)-N-(3-quinuclidinyl)-3-chlorobenzamide hydrochloride
In 60 ml of methanol was dissolved 23 g of N-(3-quinuclidinyl)-3-chlorobenzamide followed by addition of a solution of D-(-)-tartaric acid (13 g) in 40 ml of methanol. The mixture was ice-cooled and the resulting crystals were recovered by filtration. To the crystals was added 350 ml of methanol and the mixture was refluxed for a while. After cooling, the crystals were collected by filtration. The above operation was repeated twice and the crystals obtained were dissolved in water and sodium hydroxide solution was added. This mixture was extracted with chloroform and the extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was then evaporated off to obtain a colorless oil. This oil was treated with ethanolic hydrochloric acid in acetone and the precipitated hydrochloride was recovered by filtration to give 11.4 g of the desired compound as white crystals. m.p. 244°-246° C.

reactant | N-(3-quinuclidinyl)-3-chlorobenzamide | 23 g | N12CC(C(CC1)CC2)NC(C2=CC(=CC=C2)Cl)=O | C14H17ClN2O
reactant | D-(-)-tartaric acid | 13 g | C([C@@H](O)[C@H](O)C(=O)O)(=O)O | C4H6O6
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 60 ml | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | (S)-(-)-N-(3-quinuclidinyl)-3-chlorobenzamide hydrochloride | 11.4 g | Cl.N12C[C@H](C(CC1)CC2)NC(C2=CC(=CC=C2)Cl)=O | InChI=1S/C14H17ClN2O.ClH/c15-12-3-1-2-11(8-12)14(18)16-13-9-17-6-4-10(13)5-7-17;/h1-3,8,10,13H,4-7,9H2,(H,16,18);1H/t13-;/m1./s1
